US07977338B2
A mixture of 1.0 g of [4-(2-nitro-phenylamino)-phenyl]-acetic acid and 0.4 ml of HCl conc. in 20 ml of MeOH is stirred and refluxed for 1 hour. The mixture obtained is allowed to cool to rt, and is concentrated in vacuo. The concentrate obtained is diluted with CH2Cl2, the mixture obtained is washed with an aqueous saturated solution of NaHCO3, H2O, and brine, dried (Na2SO4), filtered and concentrated. The concentrate obtained is subjected to silica gel column chromatography. [4-(2-Nitro-phenylamino)-phenyl]-acetic acid methyl ester is obtained in the form of an oil: ES-MS: 287.0 [M+H]+; single peak at tR=5.01 min (System 1); Rf=0.20 (Hexane/EtOAc, 4:1).

reactant | [4-(2-nitro-phenylamino)-phenyl]-acetic acid | 1.0 g | [N+](=O)([O-])C1=C(C=CC=C1)NC1=CC=C(C=C1)CC(=O)O | C14H12N2O4
reactant | HCl | 0.4 ml | Cl | ClH
reactant | MeOH | 20 ml | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [4-(2-Nitro-phenylamino)-phenyl]-acetic acid methyl ester | COC(CC1=CC=C(C=C1)NC1=C(C=CC=C1)[N+](=O)[O-])=O | C15H14N2O4
